US04806538
To a suspension of N-tert-butoxycarbonyl-1-methyl-D-tryptophan (1.60 g) and hydrochloric acid salt of D-methionine ethyl ester (1.06 g) in dry methylene chloride (30 ml) which was cooled on an ice bath and stirred was added a solution of triethylamine (0.50 g) in dry methylene chloride (10 ml). The mixture was stirred for 30 minutes, and to the mixture was added a solution of N,N'-dicyclohexylcarbodiimide (1.04 g) in dry methylene chloride (10 ml). The resulting mixture was stirred overnight. After removal of the solvent, crude residue was taken up with a mixture of ethyl acetate and water, filtered, and organic layer was washed with 10% hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulfate, and evaporated to give crystalline N-tert-butoxycarbonyl-1-methyl-D-tryptophyl-D-methionine ethyl ester (2.43 g).

reactant | N-tert-butoxycarbonyl-1-methyl-D-tryptophan | 1.60 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)O | C17H22N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | D-methionine ethyl ester | 1.06 g | C(C)OC([C@H](N)CCSC)=O | C7H15NO2S
reactant | N,N'-dicyclohexylcarbodiimide | 1.04 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
product | N-tert-butoxycarbonyl-1-methyl-D-tryptophyl-D-methionine ethyl ester | 2.43 g | C(C)OC([C@H](NC([C@H](NC(=O)OC(C)(C)C)CC1=CN(C2=CC=CC=C12)C)=O)CCSC)=O | C24H35N3O5S
